US08580957B2
To a solution of (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation, see Intermediate 44) (115 mg, 0.268 mmol) and 2-chloro-4-methylpyridine (102 mg, 0.803 mmol) in toluene (2.5 mL) were successively added sodium tert-butoxide (129 mg, 1.338 mmol), tris(dibenzylideneacetone)dipalladium(0) (245 mg, 0.268 mmol) and 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (211 mg, 0.535 mmol). The resulting mixture was stirred at 100° C. for 1 h then cooled to room temperature. The insoluble material was washed with 5% MeOH in DCM. The combined filtrate and washings were concentrated in vacuo and the residue was dissolved in a 1:1 MeOH/DMSO mixture and purified via MDAP (modifier; formic acid). The appropriate fractions were combined and the solvents evaporated using a blow down apparatus to give 2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(4-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-1,2,3-triazol-1-yl)ethanol (18.5 mg, 0.046 mmol, 17%) as a colourless oil.

reactant | (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO[Si](C)(C)C(C)(C)C)N)C | C22H35N5O2Si
reactant | 2-chloro-4-methylpyridine | 0.803 mmol, 102 mg | ClC1=NC=CC(=C1)C | C6H6ClN
reactant | sodium tert-butoxide | 1.338 mmol, 129 mg | CC(C)([O-])C.[Na+]
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.535 mmol, 211 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.268 mmol, 245 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(4-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-1,2,3-triazol-1-yl)ethanol | 0.046 mmol, 18.5 mg, 17% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO)NC1=NC=CC(=C1)C)C | C22H26N6O2
